US05332750
1-(2'-cyanobiphenyl-4-ylmethyl)-1,2-dihydro-2-oxo-6-phenylpyridine;
with methyl 6-isobutyl-1,2-dihydro-2-oxopyridine-3-carboxylate (obtainable analogously to IIIa from 4-methylpentan-2-one via 1-hydroxy-5-methylhexen-1-one, 6-isobutyl-1,2-dihydro-2-oxo-3-cyanopyridine and 6-isobutyl-1,2-dihydro-2-oxopyridine-3-carboxylic acid):

reactant | methyl 6-isobutyl-1,2-dihydro-2-oxopyridine-3-carboxylate | C(C(C)C)C1=CC=C(C(N1)=O)C(=O)OC | C11H15NO3
reactant | 1-hydroxy-5-methylhexen-1-one | OC(C=CCC(C)C)=O | C7H12O2
reactant | 6-isobutyl-1,2-dihydro-2-oxo-3-cyanopyridine | C(C(C)C)C1=CC=C(C(N1)=O)C#N | C10H12N2O
reactant | 6-isobutyl-1,2-dihydro-2-oxopyridine-3-carboxylic acid | C(C(C)C)C1=CC=C(C(N1)=O)C(=O)O | C10H13NO3
reactant | 4-methylpentan-2-one | CC(CC(C)=O)C | C6H12O
product | 1-(2'-cyanobiphenyl-4-ylmethyl)-1,2-dihydro-2-oxo-6-phenylpyridine | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(C=CC=C1C1=CC=CC=C1)=O | C25H18N2O
